US08580831B2
5-m-Tolyl-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure Z2, starting from 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-m-tolyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)N | C9H10F2N4O
reactant | 5-m-tolyl-oxazole-4-carboxylic acid | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
product | 5-m-Tolyl-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C20H17F2N5O3
